US06211199B1
Alternately, according to the method of J. Med. Chem., 21, 1100 (1978), combine methyl 2-methoxy-5-aminobenzoate (1.8 g, 10 mmol), diformyl hydrazine (0.97 g, 11 mmol), and phosphorous pentoxide (1.84 g, 13 mmol). Heat to 160° C. After 1.5 hours, cool the reaction mixture and add a saturated aqueous solution of sodium bicarbonate. Extract three times with dichloromethane. Dry the combined organic layers over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 40% ethyl acetate/dichloromethane and then 5% methanol/dichloromethane to give methyl 2-methoxy-5-(4H-triazol-1-yl)benzoate: mp; 179-182° C.

reactant | methyl 2-methoxy-5-aminobenzoate | 10 mmol, 1.8 g | COC1=C(C(=O)OC)C=C(C=C1)N | C9H11NO3
reactant | diformyl hydrazine | 11 mmol, 0.97 g | C(=O)NNC=O | C2H4N2O2
reactant | phosphorous pentoxide | 13 mmol, 1.84 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol dichloromethane | CO.ClCCl
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | methyl 2-methoxy-5-(4H-triazol-1-yl)benzoate | COC1=C(C(=O)OC)C=C(C=C1)N1N=NCC1 | C11H13N3O3
